US05532258
A solution of acetoxyacetyl chloride (1.08 g) in dichloromethane (10 ml) was added slowly to a suspension of 4-(3-aminomethylphenyl)-2-[[(amino)(2-methoxyethyl-amino)methylene]amino] thiazole dihydrochloride (2.5 g) and triethylamine (1.60 g) in dichloromethane (40 ml) with cooling on an ice bath. The mixture was stirred at room temperature for 1 day. The solvent was removed under reduced pressure. The residue was suspended in water (100 ml). The mixture was alkalified with an aqueous potassium carbonate solution and then extracted with a mixture of ethyl acetate (250 ml) and tetrahydrofuran (50 ml). The extract was dried with magnesium sulfate and then was evaporated in vacuo. The residue was chromatographed on a silica gel column eluting with a mixture of chloroform and methanol (20:1). The solvent was removed under reduced pressure. The residue was dissolved in methanolic ammonia (50 ml). The mixture was stirred with cooling on an ice-water bath for 1 hour. The solvent was removed under reduced pressure. The residue was dissolved in ethanol (50 ml) and 4N- dioxane solution of hydrogen chloride (10 ml) was added to the mixture. The mixture was stirred at room temperature for 4 hours. The resulting precipitate was collected by filtration. Recrystallization from ethanol afforded 2-[[(amino)(2-methoxyethylamino)methylene]amino]-4-(3-hydroxyacetamidomethylphenyl)thiazole hydrochloride (0.57 g).

reactant | acetoxyacetyl chloride | 1.08 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | 4-(3-aminomethylphenyl)-2-[[(amino)(2-methoxyethyl-amino)methylene]amino] thiazole dihydrochloride | 2.5 g | Cl.Cl.NCC=1C=C(C=CC1)C=1N=C(SC1)N=C(NCCOC)N
reactant | triethylamine | 1.60 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-[[(amino)(2-methoxyethylamino)methylene]amino]-4-(3-hydroxyacetamidomethylphenyl)thiazole hydrochloride | 0.57 g | Cl.NC(NCCOC)=NC=1SC=C(N1)C1=CC(=CC=C1)CNC(CO)=O | InChI=1S/C16H21N5O3S.ClH/c1-24-6-5-18-15(17)21-16-20-13(10-25-16)12-4-2-3-11(7-12)8-19-14(23)9-22;/h2-4,7,10,22H,5-6,8-9H2,1H3,(H,19,23)(H3,17,18,20,21);1H
